US08809342B2
A round bottom flask was charged with (R)-2-methyl-N—((R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)propane-2-sulfinamide (47.5 g, 115.5 mmol) and methanol (300 mL). The mixture was cooled to 0° C. and 2.0N HCl in ether (150 mL) was added. The reaction was stirred for 20 minutes. The reaction was then concentrated under reduced pressure. Trituration with ether provided (R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine hydrochloride (35.3 g, 89%), as a white solid. 1H NMR (400 MHz, CD3OD, δ): 0.95 (d, 3 H) 0.99 (d, J=6.44 Hz, 3 H) 1.38-1.51 (m, 1 H) 1.78-1.91 (m, 1 H) 1.92-2.03 (m, 1 H) 4.40 (dd, J=10.15, 5.66 Hz, 1 H) 7.56-7.63 (m, 2 H) 7.74-7.88 (m, 6 H). MS (M+1): 291.2. [α]D =−11.9, c=1.8 (MeOH).

reactant | (R)-2-methyl-N—((R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)propane-2-sulfinamide | 115.5 mmol, 47.5 g | CC(C)(C)[S@@](=O)N[C@H](CC(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C22H28F3NOS
reactant | methanol | 300 mL | CO | CH4O
reactant | HCl | 2.0N | Cl | ClH
solvent | ether | 150 mL | CCOCC | C4H10O
product | (R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine hydrochloride | 35.3 g, 89% | Cl.CC(C[C@@H](N)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | InChI=1S/C18H20F3N.ClH/c1-12(2)11-17(22)15-5-3-13(4-6-15)14-7-9-16(10-8-14)18(19,20)21;/h3-10,12,17H,11,22H2,1-2H3;1H/t17-;/m1./s1
